US09144557B2
A solution of cyclopropanecarbonyl chloride (Aldrich, 448 mg, 4.31 mmol) in 5 mL of methylene chloride was slowly added over 5 minutes to N-(4-(4-aminobenzoyl)phenyl)-4-fluorobenzamide (1.2 g, 3.59 mmol) in 20 mL of methylene chloride containing 3 mL of pyridine. The reaction was stirred at room temperature for 12 h then quenched with 40 mL of water. The layers were separated and the aqueous layer was extracted with ethyl acetate (2×50 mL). The combined organics were washed with 0.5 N HCl (100 mL), brine (100 mL), dried over sodium sulphate, and filtered. Concentration of the organics provided N-(4-(4-(cyclopropanecarboxamido)benzoyl)phenyl)-4-fluorobenzamide (1.3 g, 3.23 mmol) as a tan solid which was used without further purification.

reactant | cyclopropanecarbonyl chloride | 4.31 mmol, 448 mg | C1(CC1)C(=O)Cl | C4H5ClO
reactant | N-(4-(4-aminobenzoyl)phenyl)-4-fluorobenzamide | 3.59 mmol, 1.2 g | NC1=CC=C(C(=O)C2=CC=C(C=C2)NC(C2=CC=C(C=C2)F)=O)C=C1 | C20H15FN2O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(4-(4-(cyclopropanecarboxamido)benzoyl)phenyl)-4-fluorobenzamide | 3.23 mmol, 1.3 g | C1(CC1)C(=O)NC1=CC=C(C(=O)C2=CC=C(C=C2)NC(C2=CC=C(C=C2)F)=O)C=C1 | C24H19FN2O3
